data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O+:21](CC(C)(C)CO)C(C1=CC(=C(C=C1)OC)Br)O.C1=CC=[N:10]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][N+:10]1=CC=CC=C1.CC(C)(CO)C[O:21]C(C1=CC(=C(C=C1)OC)Br)O.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][N+:21](CC)(CC)CC.COC1=C(C=CC(=C1)N2CCC(CC2)(N3CCCC(C3)O)[OH:10])[N+](=O)[O-].CC(=O)[O-]>>[H:20][OH+:10]C1(CCN(CC1)C2=CC(=C(C=C2)[N+](=O)[O-])OC)N3CCCC(C3)O.CC[N:21](CC)CC.CC(=O)[O-] 10=20;20,21=21
[CH:20]([C:21](Br)(Br)Br)(O)[O-:10]>>[CH:20](=[O:10])O.[C-:21](Br)(Br)Br 10=20;20,21=21
CCO[C:20](=[O:21])CCC(=O)C.[C-:10]#N>>CCO[C:20](CCC(=O)C)([C:10]#N)[O-:21] 10=20;20,21=21
C[CH:20]([O-:10])[O:21]P(=O)(O)O>>C[CH:20]=[O:10].OP(=O)(O)[O-:21] 10=20;20,21=21
C1=CC2=C(C=C1)C=C3C(=C2)C(=O)[C:20]3=[O:21].C1=CC(=C(C=C1)N)[NH2:10].CC(=O)O.CO>>C1=CC2=C(C=C1)C=C3C(=C2)C(=O)[C:20]3([NH2+:10]C4=C(C=CC=C4)N)[O-:21].CC(=O)O.CO 10=20;20,21=21
C1CCC2=[N:10]CCCN2CC1.C1=CC(=CC=C1[CH2:20][Br:21])C#N>>C1CCC2=[N+:10](CCCN2CC1)[CH2:20]C3=CC=C(C=C3)C#N.[Br-:21] 10=20;20,21=21
[H:10][BH3-:11].CCC[CH:20]=[O+:21][Na]>>[H:10][CH:20](CCC)[O:21][Na].[BH3:11] 10,11=10,20;20,21=21
CNC(=O)C(CC1=CNC2=C1C=CC=C2)NC(=O)[O:21][CH2:20][C-:10]3C4=C(C=CC=C4)C5=C3C=CC=C5.CN(C)C=O.C1CC[NH2+]CC1>>CNC(=O)C(CC1=CNC2=C1C=CC=C2)NC(=O)[O-:21].[CH2:20]=[C:10]1C2=C(C=CC=C2)C3=C1C=CC=C3.CN(C)C=O.C1CC[NH2+]CC1 10=20;20,21=21
[B-]([O+:11]1[C:10]23C1(CCCC2)NC4=CC=CC=C34)(F)(F)F>>[B-]([O:11]C12CCCC[C+:10]1C3=CC=CC=C3N2)(F)(F)F 10,11=11
[B-]([F:10])(F)(F)F.CC12CCC3C(C1CCC2=O)CCC4=C3C=CC(=[C+:20]4)OC.N#N>>[B-](F)(F)(F)[F+:10][C:20]1=C(C=CC2=C1CCC3C2CCC4(C3CCC4=O)C)OC.N#N 10=20
[H:20][O+:21]=C1CCC2(C(=C1)CCC2=O)C.C1CC([NH:10]C1)C(=O)[O-].O>>[H:20][NH+:10]1CCCC1C(=O)[O-].CC12CCC(=[O:21])C=C1CCC2=O.O 10=20;20,21=21
C[O+:11](C)[Na:10]>>C[O:11]C.[Na+:10] 10,11=11
[H:20][OH2+:21].CC(C1=CC=CC=C1)C(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C(C)C1=CC=CC=C1.[OH2:21] 10=20;20,21=21
[H:20][O+:21](CCO)C1(CCC2(C(C1)CCC2=O)C)O.C(=O)(C(=O)[O-:10])O>>[H:20][O:10]C(=O)C(=O)O.CC12CCC(CC1CCC2=O)(O)[O:21]CCO 10=20;20,21=21
C[C:20](NC)([O-:10])[O:21]C(=O)CCC=O>>C[C:20](=[O:10])NC.C(CC(=O)[O-:21])C=O 10=20;20,21=21
C[Si](C)(C)[O:10][CH2+:20]>>C[Si](C)(C)[O+:10]=[CH2:20] 10=20,
CC[NH:10]C.[CH3:20][I:21]>>CC[NH+:10](C)[CH3:20].[I-:21] 10=20;20,21=21
[H:20][OH+:21]C1(CCCCC1C)C.[OH2:10]>>[H:20][OH2+:10].CC1CCCCC1(C)[OH:21] 10=20;20,21=21
[H:20][N+:21](CC)(CC)CC.CCCC1CC2=C(C(=C(C=C2)OC)O)C(=O)C1(C[CH:10]=[C:11](C)[O-:12])C=O>>[H:20][CH:10](CC1(C(CC2=C(C1=O)C(=C(C=C2)OC)O)CCC)C=O)[C:11](=[O:12])C.CC[N:21](CC)CC 10,11=10,20;20,21=21;12=11
[H:20][OH+:21]CCCCCCCC.CCCCCCCCOC(C1=CC(=C(C=C1)O)O)(O)[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1CCOC1>>[H:20][OH+:10]C(C1=CC(=C(C=C1)O)O)(O)OCCCCCCCC.CCCCCCCC[OH:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1CCOC1 10=20;20,21=21
C[C:20](C)([O:10]C)[F:21]>>C[C:20](=[O+:10]C)C.[F-:21] 10=20;20,21=21
[H:20][O:21]CC.CCOC(=O)CC1(NC(=S)NN1)[O-:10].[Na+]>>[H:20][O:10]C1(NC(=S)NN1)CC(=O)OCC.CC[O-:21].[Na+] 10=20;20,21=21
C1OC2=CC(=C(C=C2O1)Br)[CH:20]=[O+:21]CC[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=NC=C1.O>>C1C[O:21][CH:20]([OH+:10]1)C2=C(C=C3C(=C2)OCO3)Br.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=NC=C1.O 10=20;20,21=21
[H:20][O:21]C(=O)C.COC1=CC=C(C=C1)C2C(=CC3=CC=C(C=C3)O)C(C(=O)N2C4=CC=CC=C4)(NC5=C(C=CC=C5)O)[OH:10]>>[H:20][OH+:10]C1(C(=CC2=CC=C(C=C2)O)C(N(C1=O)C3=CC=CC=C3)C4=CC=C(C=C4)OC)NC5=C(C=CC=C5)O.CC(=O)[O-:21] 10=20;20,21=21
[H:20][OH:21].CC[C:11](=[CH:10]CC1(CCCCC1=O)C)[O-:12]>>[H:20][CH:10](CC1(CCCCC1=O)C)[C:11](=[O:12])CC.[OH-:21] 10,11=10,20;20,21=21;12=11
[H:20][OH+:21][Na].CC(C1C(O1)(C)C)[O-:10].O>>[H:20][O:10]C(C)C1C(O1)(C)C.[OH:21][Na].O 10=20;20,21=21
[H:20][NH2:21].C1=C[C-:10]=C(N=C1)N>>[H:20][C:10]1=C(N=CC=C1)N.[NH2-:21] 10=20;20,21=21
C[CH:10]=[O+:11][Sn-](Cl)(Cl)(Cl)Cl>>C[CH+:10][O:11][Sn-](Cl)(Cl)(Cl)Cl 10,11=11
[H:20][O:21]CCC1=CC=C(C=C1)OC.[C-:10](Br)(Br)Br.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br>>[H:20][C:10](Br)(Br)Br.COC1=CC=C(C=C1)CC[O-:21].C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br 10=20;20,21=21
CC[CH:20](C)[Br:21].CN(C)[C:11](=[CH2:10])[O-:12]>>CC[CH:20](C)[CH2:10][C:11](=[O:12])N(C)C.[Br-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]S(=O)(=O)C.CC12CCC(CC1CCC3C2CCC4(C3CCC4=[O:10])C)O.C(CO)O>>[H:20][O+:10]=C1CCC2C1(CCC3C2CCC4C3(CCC(C4)O)C)C.CS(=O)(=O)[O-:21].C(CO)O 10=20;20,21=21
[H:20][N+:21](=C1CCCCCCC1)CC2=CC=CC=C2.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].C1CCCC(=[N:21]CC2=CC=CC=C2)CCC1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)OCC3C4C(CC(O3)C[CH+]C[Si:20](C)(C)C)OC(=O)O4.C(F)(F)(F)S(=O)(=O)[O-:10].CCO[Si](C)(C)C>>CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)OCC3C4C(CC(O3)C[CH+]C[Si-:20](C)(C)(C)[O:10]S(=O)(=O)C(F)(F)F)OC(=O)O4.CCO[Si](C)(C)C 10=20,
COC1=C2C3=C(CC4C5(C3(CCN4CC6CC6)[CH:20]([O:21]2)[CH-:10]CC5)O)C=C1.N#N.O.[K+]>>COC1=C(C2=C(CC3C4(C2(CCN3CC5CC5)[CH:20]=[CH:10]CC4)O)C=C1)[O-:21].N#N.O.[K+] 10=20;20,21=21
[H:20][NH+:21](C(CC(=O)OCC)([O-])Cl)NC(=S)N.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CCOC(=O)CC([NH:21]NC(=S)N)([O-])Cl 10=20;20,21=21
